* c:\fossee\esim\library\subcircuitlibrary\74hc157\74hc157.cir

.include mux.sub
x1 net-_u1-pad9_ net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad1_ mux
x2 net-_u1-pad9_ net-_u1-pad3_ net-_u1-pad4_ net-_u4-pad1_ mux
x3 net-_u1-pad9_ net-_u1-pad5_ net-_u1-pad6_ net-_u5-pad1_ mux
x4 net-_u1-pad9_ net-_u1-pad7_ net-_u1-pad8_ net-_u6-pad1_ mux
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ port
* u3  net-_u3-pad1_ net-_u2-pad2_ net-_u1-pad11_ d_and
* u4  net-_u4-pad1_ net-_u2-pad2_ net-_u1-pad12_ d_and
* u5  net-_u5-pad1_ net-_u2-pad2_ net-_u1-pad13_ d_and
* u6  net-_u6-pad1_ net-_u2-pad2_ net-_u1-pad14_ d_and
* u2  net-_u1-pad10_ net-_u2-pad2_ d_inverter
a1 [net-_u3-pad1_ net-_u2-pad2_ ] net-_u1-pad11_ u3
a2 [net-_u4-pad1_ net-_u2-pad2_ ] net-_u1-pad12_ u4
a3 [net-_u5-pad1_ net-_u2-pad2_ ] net-_u1-pad13_ u5
a4 [net-_u6-pad1_ net-_u2-pad2_ ] net-_u1-pad14_ u6
a5 net-_u1-pad10_ net-_u2-pad2_ u2
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
